US04521606
A solution of 5-[2-(dibenzylamino)-1-hydroxyethyl]-indole-7-carboxamide (119.7 mg, 0.3 mmol, described above) was hydrogenated for 28 hours at atmospheric pressure and room temperature in dry methanol (12.0 mL) containing 10% palladium on carbon. The mixture was filtered and the filtrate was evaporated. Crystallization from an ethyl acetate-diethyl ether mixture gave 5-(2-amino-1-hydroxyethyl)indole-7-carboxamide: mp 88°-90° C.; and NMR(DMSO-d6) δ 2.70(d, 2H), 2.80-3.60(br s, 5H), 4.50(t, 1H), 6.40(m, 1H), 7.00-7.70(m, 3H) and 10.75(br s, 1H).

reactant | 5-[2-(dibenzylamino)-1-hydroxyethyl]-indole-7-carboxamide | 0.3 mmol, 119.7 mg | C(C1=CC=CC=C1)N(CC(O)C=1C=C2C=CNC2=C(C1)C(=O)N)CC1=CC=CC=C1 | C25H25N3O2
solvent | methanol | 12.0 mL | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | 5-(2-amino-1-hydroxyethyl)indole-7-carboxamide | NCC(O)C=1C=C2C=CNC2=C(C1)C(=O)N | C11H13N3O2
